US05064833
2-(2-Methylphenylamino)-4-(N-methyl-4-methoxyphenylamino)quinazoline hydrochloride (1.6 g, 0.0043 mol) was stirred in dry dichloromethane (50 ml) at 0°-5° under nitrogen. To this solution was added boron tribromide (2.0 ml, 0.0216 mol) dropwise at 0°-5° over 10 minutes. The mixture was stirred for 3 hours at 0°-5° and then allowed to reach room temperature over 16 hours. After pouring onto ice, basifying and neutralising the aqueous phase was extracted with dichloromethane, the organic extracts which dried and evaporated to dryness. The residue afforded crystals of 2-(2-methylphenylamino)-4-(n-methyl-4-hydroxyphenylamino)quinazoline hydrochloride (0.4 g, 23.7%) from ethanolic hydrogen chloride m.p. 317°-319°.

reactant | 2-(2-Methylphenylamino)-4-(N-methyl-4-methoxyphenylamino)quinazoline hydrochloride | 0.0043 mol, 1.6 g | Cl.CC1=C(C=CC=C1)NC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC
reactant | boron tribromide | 0.0216 mol, 2.0 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-(2-methylphenylamino)-4-(n-methyl-4-hydroxyphenylamino)quinazoline hydrochloride | 0.4 g, 23.7% | Cl.CC1=C(C=CC=C1)NC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)O | InChI=1S/C22H20N4O.ClH/c1-15-7-3-5-9-19(15)23-22-24-20-10-6-4-8-18(20)21(25-22)26(2)16-11-13-17(27)14-12-16;/h3-14,27H,1-2H3,(H,23,24,25);1H
